Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, visual changes
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram (___)

 
History of Present Illness:
___ is a ___ woman with a history of migraines
with aura who presents with ongoing headaches and visual
disturbances following a minor motor vehicle accident.

The patient reports that she was involved in a motor vehicle
accident at around noon yesterday.  She was the restrained
passenger in the front seat.  The car was stopped, when a car
from behind rear-ended her car.  They estimate that the 
traveling
car was traveling less than 30 mph  as it was breaking to a 
stop.
Airbags did not deploy.  She denied hitting her ___ or losing
consciousness.  However, her glasses did fly off her face.  She
was able to walk out of her car and reportedly did not have any
symptoms at this time, including a headache.  She was able to go
home in her usual state of health.

At around 8 ___, however, she felt a sudden sensation of wanting
to pass out.  She had to lay down on the couch to avoid falling. 

She never lost consciousness, however she felt an acute onset
headache, which was quite severe and explosive in onset, and
different from her normal migraines.  This was described as a
stabbing headache mostly involving the right side of her ___,
without associated photophobia or throbbing quality.  She also
felt the onset of visual changes that are similar to her
migrainous auras, involving "superimposed different images next
to each other".  She denied any floaters or missing spots in her
vision.  She denied any neck pain at this time.  The headaches
improved slightly, however were persistent around 5 AM this
morning, prompting her to visit an outside hospital for workup. 
She underwent a CT which did not show any abnormalities 
including
subarachnoid blood, and because her headache improved after
migraine cocktail, she was discharged home.  However, she had
persistent visual symptoms, which are unusual for her given that
her auras usually lasted only around 30 minutes or so. 
Therefore, she called her primary neurologist, who was concerned
about these ongoing visual symptoms.  He advised her to come to
the ED for further evaluation. Seen by ophthalmology in the ED,
who felt there was no acute abnormality with eyes.

Regarding her history of migraines, she usually feels a 
pulsatile
headache associated with photophobia, minimal if any nausea. 
These occur once every several months.  They are associated with
about 30 minutes of visual auras which are similar to the ones
that she is experiencing today, though are usually self-limited. 

She only takes ibuprofen occasionally for this, and has never
required prophylactic medications or an abortive agent.  She was
recently seen by her primary neurologist in ___ for 
evaluation
of her migraines, she had never been evaluated before.  She
underwent an MRI of the brain which was unremarkable.
 
Past Medical History:
Migraine with aura
Constipation
 
Social History:
___
Family History:
No history of migraines. 
Notably, her mother was exposed to DES in utero, and 
subsequently experienced many miscarriages. 
 
Physical Exam:
ON ADMISSION
============
Vitals:  
T 98.2  P 84  BP 126/70  RR 18  O2 100% RA 
 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: Pupils 5mm and fixed (s/p dilated eye exam in
ED).  Incomplete left homonymous hemianopia. EOMI, no nystagmus.
V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

ON DISCHARGE
============
General: Awake, cooperative, no apparent distress.
HEENT: NC/AT, no scleral icterus noted, MMM.
Pulmonary: Breathing comfortably, no tachypnea nor increased 
WOB.
Cardiac: Heart regular rate and rhythm.
Skin: Warm, well-perfused. 
Abdomen: Soft, non-tender, non-distended.
Extremities: Symmetric, no edema. 

Neurologic:
-Mental Status: Alert, oriented x 3. Attentive, MOYB without
difficulty. Language fluent with intact repetition and
comprehension. Speech regular rate, rhythm, volume with no
paraphasic errors.

-Cranial Nerves: PERRL. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii and SCM
bilaterally. Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5  5     5     
 R  5    ___   ___  5   5    5  5     5     

-Sensory: Intact to LT throughout.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. 

-Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.
 
Pertinent Results:
___ 05:10AM BLOOD %HbA1c-5.3 eAG-105
___ 05:10AM BLOOD Triglyc-186* HDL-48 CHOL/HD-4.3 
LDLcalc-121
___ 05:10AM BLOOD TSH-3.3

___ 05:10AM BLOOD Lupus Anticoagulant-NEG

Test                          Result              Reference 
Range/Units
B2 GLYCOPROTEIN I (IGG)AB     <9                  <=20 SGU
B2 GLYCOPROTEIN I (IGM)AB     <9                  <=20 SMU
B2 GLYCOPROTEIN I (IGA)AB     <9                  <=20 ___

TEE: 
No spontaneous echo contrast or thrombus is seen in the body of
the left atrium/left atrial appendage or the body of the right
atrium/right atrial appendage. Right atrial appendage ejection
velocity is good (>20 cm/s). No atrial septal defect is seen on
color flow Doppler, but there is early appearance of agitated
saline/microbubbles in the left atrium/ventricle at rest most
consistent with an atrial septal defect or stretched patent
foramen ovale (though a very proximal intrapulmonary shunt 
cannot
be fully excluded). There is a bidirectional shunt across the
interatrial septum at rest. Overall left ventricular systolic
function is normal (LVEF>55%). Right ventricular chamber size 
and
free wall motion are normal. There are simple atheroma in the
aortic arch. There are simple atheroma in the descending 
thoracic
aorta. The aortic valve leaflets (3) appear structurally normal
with good leaflet excursion. No masses or vegetations are seen 
on
the aortic valve. No aortic valve abscess is seen. No aortic
regurgitation is seen. The mitral valve leaflets are 
structurally
normal. There is no mitral valve prolapse. No mass or vegetation
is seen on the mitral valve. No mitral valve abscess is seen. No
mitral regurgitation is seen. There is no abscess of the
tricuspid valve. There is no pericardial effusion. 
 IMPRESSION: Streched PFO/small ASD with bidirectional shunt
evidenced by saline injection and color Doppler at rest. Simple
atheroma in descending aorta and arch. Normal biventricular
systolic function.

BILAT LOWER EXT VEINS
No evidence of deep venous thrombosis in the right or left lower
extremity veins. (Unsigned at the time of this note.)

MRA Neck W/ and W/O Contrast
1.  Limited evaluation due to venous contamination and pulsation
artifact. Within these limitations and in the context of the
known right PCA territory infarction, a small crescentic focus 
of
hyperintensity along the distal V2 segment of the right 
vertebral
artery is concerning for a small focal dissection (6:12, 7:1). 
The right vertebral artery remains patent. 2.  No evidence of
left vertebral artery dissection or occlusion. 3.  Unremarkable
imaged carotid arteries.

CT ___ non-contrast: New area of hypoattenuation in the right
parafalcine occipital lobe just superior to the tentorium likely
representing acute infarct better characterized on the more
recently performed MRI brain study. 

CTA ___ and Neck: No evidence of dissection, aneurysm or
occlusion of the ___ neck. No significant ICA stenosis by 
NASCET
criteria. 
MR ___ with and without contrast: There is an acute right PCA
distribution infarct involving the inferomedial right occipital
lobe and posteromedial right temporal lobe. Findings correspond
to CT abnormality from ___ at 00:43.

MR ___ With and Without Contrast: Acute right PCA distribution
infarct.  No hemorrhage.
 
Brief Hospital Course:
___ is a ___ woman with a history of migraines 
with aura who presented with ongoing headaches and visual 
disturbances following a minor motor vehicle accident. Her 
initial exam was significant for incomplete left homonymous 
hemianopia, but this symptom resolved by the following morning. 
Although the headache that came on was severe at onset, she had 
no nuchal rigidity or other focal deficits to suggest an 
aneurysmal bleed. A CTA of her ___ and neck was obtained to 
rule out dissection and was unremarkable. Non-contrast ___ CT 
obtained at ___ did show an area of hypoattenuation in the 
parafalcine right occipital lobe, just superior to the 
tentorium, concerning for either edema related to contusion or 
ischemia. Therefore, an MRI was obtained to evaluate for stroke. 
This did in fact show an acute infarct in the inferomedial right 
occipital lobe and posteromedial right temporal lobe. An MRA was 
therefore obtained, and although the findings were equivocal, it 
does NOT appear that there was a vertebral artery dissection. 

Further work-up was obtained with a trans-esophageal 
echocardiogram and hypercoaguable work-up including Protein C, 
Protein S, Antithrombin III, Lupus anticoagulant, 
ant-cardiolipin, and beta-2-glycoprotein antibodies. Her TEE 
revealed a PFO, so lower extremity ultrasounds and MRV of the 
pelvis were obtained. 

She was started on Aspirin 81mg daily for secondary stroke 
prevention. Her LDL was elevated at 121, so she was started on a 
statin for secondary prevention.

TRANSITIONAL ISSUES:
-Follow up pending lab results: Protein C, Protein S, 
Antithrombin III, anti-Cardiolipin
-If above work-up is unremarkable, consider further 
hypercoaguability studies including Factor V Leiden, Prothrombin 
gene mutation
-Would recommend consideration of PFO closure to prevent future 
stroke
-Will follow up with Dr. ___ in Neuro-ophthalmology for 
ongoing evaluation of visual complaints
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citrucel (methylcellulose (laxative)) 500 mg oral DAILY:PRN 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*3 
3.  Citrucel (methylcellulose (laxative)) 500 mg oral DAILY:PRN  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke, cryptogenic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
  
 You were hospitalized due to symptoms of headache and vision 
changes resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
We performed several tests to determine the cause of your 
stroke. We believe your stroke most likely occurred from a blood 
clot passing through the PFO in your heart, and then travelling 
to your brain. It does not appear that you had a dissection of 
your artery.
  
 We are changing your medications as follows:    
 Start Aspirin 81mg daily
 Start Atorvastatin 40mg daily

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___